US05284954
5-n-Pentyltetrazole
A mixture of hexanenitrile (938 mg, 9.65 mmol), dibutyltin oxide (293 mg, 0.98 mmol) and 97% trimethylsilylazide (2.60 mL, 19.1 mmol) in toluene (20 mL) were heated at ~110° C. for 25 hours and ambient temperature for one hour. The reaction mixture was extracted with 1M sodium hydroxide solution (4×10 mL) and the combined aqueous extracts were acidified with 6M hydrochloric acid to pH 3-4 and extracted with 10% isopropanol in chloroform (3×10 mL). The combined organic extracts were washed with brine, dried over magnesium sulfate and concentrated in vacuo to afford 950 mg (70%) of the title compound. 1H NMR (CDCl3, 300 MHz) δ0.87 (t, J=7 Hz, 3H), 1.30-1.45 (m, 4H), 1.90 (pentet, J=7 Hz, 2H), 3.12 (t, J=7 Hz, 2H). 13C NMR (CDCl3, 75 MHz) 13.70, 22.06, 23.35, 27.31, 31.05, 156.97. IR (CDCl3) 2900, 1555 cm-1. MS (DCl/NH3) m/e 141 (M+H)+, 158 (M+H+NH3)+. Anal calcd for C6H12N4 : C, 51.41; H, 8.63; N, 39.97. Found: C, 51.25; H, 8.59; N, 39.93.

reactant | hexanenitrile | 9.65 mmol, 938 mg | C(CCCCC)#N | C6H11N
reactant | dibutyltin oxide | 0.98 mmol, 293 mg | C(CCC)[Sn](CCCC)=O
reactant | trimethylsilylazide | 19.1 mmol, 2.60 mL | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 5-n-Pentyltetrazole | 950 mg, 70% | C(CCCC)C1=NN=NN1 | C6H12N4
